US05574060
To a stirred solution of 20.2 g (198.0mmol) of lithium trimethylethylenediamine in 500 ml of dry tetrahydrofuran (THF) under nitrogen at -30° C. was added 79 ml (198.0 mmol) of 2.5M butyllithium (nBuLi) in hexanes dropwise over 15 minutes. The solution became pale yellow and was stirred at -30° C. for 30 minutes. To this solution was added 20.0 g (188.5 mmol) of benzaldehyde dropwise over 30 minutes. The solution became cloudy as the complex was formed and was stirred 1 hour. To this slurry was added 113 ml (283 mmol) of 2.5M nBuLi hexanes dropwise over 1 hour. This slurry was stirred for 24 hours and gradually cleared. The solution was then transferred via cannula into a slurry of 50.6 g (565 mmol) of copper cyanide in 500 ml of dry tetrahydrofuran under nitrogen at -78° C. The mixture was allowed to warm to -30° C. and stirred for 30 minutes. To this slurry was added 49 ml (565 mmol) of allyl bromide. The mixture instantly darkened upon addition. The reaction was quenched after 30 minutes with 3% aqueous ammonium hydroxide and saturated ammonium chloride. This biphasic solution was stirred overnight to ensure complete copper removal. The aqueous layer was extracted repetitively with ether to remove all product. The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The yellow oil was purified by distillation at 62° C. at 0.03 torr affording 15.32 g (56%) of o-allylbenzaldehyde. 1H NMR: ε3.82 (d; 2H, J=6.17 Hz, CH2CH=CH2), 4.99 (d; 1H, J=17.1 Hz, one of CH=CH2), 5.09 (d; 1H, J=10.2 Hz, one of CH=CH2), 6.04 (m, 1H CH=CH2), 7.3 (d; 1H, J=7.8 Hz, aryl H), 7.40 (dd; 1H, J=7.6 Hz, aryl H), 7.54 (dd; 1H, J=7.4 Hz, 7.8 Hz, aryl H), 7.86 (d; 1H, J=7.6 Hz, aryl H), 10.26 (s; 1H aldehyde H).

reactant | lithium trimethylethylenediamine | 198.0mmol, 20.2 g | CNCCN(C)C.[Li]
reactant | butyllithium | 198.0 mmol, 2.5M, 79 ml | C(CCC)[Li]
reactant | benzaldehyde | 188.5 mmol, 20.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | copper cyanide | 565 mmol, 50.6 g | [Cu](C#N)C#N
reactant | allyl bromide | 565 mmol, 49 ml | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | o-allylbenzaldehyde | 15.32 g, 56% | C(C=C)C1=C(C=O)C=CC=C1 | C10H10O
